US05610145
9-Amino-nonanoic acid
9-Azido-nonanoic acid (2.83 g, 14.2 mmol) was dissolved in ethanol (30 mL) and Lindlar catalyst (300 mg) added. The solution was hydrogenated at 50 psi, 30° C. for 4 hours, after which the catalyst was removed by filtration through Kieselguhr, washing with methanol. The solvent was removed in vacuo to give a pale yellow solid, 1.7 g (70%);

reactant | 9-Azido-nonanoic acid | 14.2 mmol, 2.83 g | N(=[N+]=[N-])CCCCCCCCC(=O)O | C9H17N3O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Lindlar catalyst | 300 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | 9-Amino-nonanoic acid | NCCCCCCCCC(=O)O | C9H19NO2
